US05405981
A 10 mL round-bottom flask equipped with a stir bar was charged with zirconocene chloride hydride (0.267 g, 1.014 mmol) and sealed with a septum. The flask was evacuated with a vacuum pump and purged with argon, the process being repeated 3 times. THF (2.5 mL) was injected and the mixture stirred to generate a white slurry which was treated via syringe with 1-octyne (0.113 g, 1.01 mmol). The mixture was stirred for 15 minutes to yield a yellow-green solution which was cooled to -78° C. and treated via syringe with ethereal MeLi (0.63 mL, 1.01 mmol) to generate a dark red solution. Concurrently, CuCN (2.3 mg, 0.026 mmol) was placed in a 5 mL round-bottom flask equipped with a stir bar, and sealed under septum. The flask was evacuated and purged with argon as above and THF (0.5 mL) added via syringe. The resulting slurry was cooled to -78° C. and treated with ZnMe2 in heptane (0.43 mL, 0.52 mmol). To this slurry at -78° C. was then added MeLi in Et2O (0.355 mL, 0.57 mmol). After 5 minutes the slurry was warmed to 0° C. for 10 minutes to afford a clear, colorless two-phase mixture, which was then cooled to -78° C. The solution of the zirconocene was added via canula to the Me2Cu(CN)Li2 /ZnMe3Li solution, thereby providing a reaction mixture comprising 5 mol-% of copper per mole of zirconium. The mixture was stirred for 15 minutes at -78° C. to yield a dark red solution which was treated with 4-isopropyl-2-cyclohexenone (77 μL, 0.5 mmol) as a neat liquid over 70 minutes. After 2 hours of additional stirring the mixture was quenched with 5 mL of 10% NH4OH in saturated NH4Cl. The product was extracted with 3×20 mL of ether and dried over Na2SO4. The solution was then filtered through flitted filter paper and the solvent removed in vacuo. The resulting residue was submitted to flash chromatography on silica gel (Petroleum Ether/Ethyl Acetate, 40/1) to give an 81% yield (101.8 mg) of 3-(1-octen-1-yl)-4-isopropylcyclohexanone as a colorless oil which gave satisfactory IR, NMR, MS, and HRMS data.

reactant | 1-octyne | 1.01 mmol, 0.113 g | C#CCCCCCC | C8H14
reactant | MeLi | 1.01 mmol, 0.63 mL | [Li]C
reactant | ZnMe2 | [Zn](C)C
reactant | heptane | 0.52 mmol, 0.43 mL | CCCCCCC | C7H16
reactant | Et2O | 0.57 mmol, 0.355 mL | CCOCC | C4H10O
reactant | 4-isopropyl-2-cyclohexenone | 0.5 mmol, 77 μL | C(C)(C)C1C=CC(CC1)=O | C9H14O
catalyst | zirconocene chloride hydride | 1.014 mmol, 0.267 g | [H-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
catalyst | zirconocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
catalyst | copper | [Cu] | Cu
catalyst | zirconium | [Zr] | Zr
catalyst | CuCN | 0.026 mmol, 2.3 mg | C(#N)[Cu]
product | 3-(1-octen-1-yl)-4-isopropylcyclohexanone | 101.8 mg, 81% yield | C(=CCCCCCC)C1CC(CCC1C(C)C)=O | C17H30O
